US07855220B2
To a solution of 4-acetamidonaphthalene-1-sulfonyl chloride (3.69 g, 2.42 mmol) and pyridine (2 ml) was added 2-aminothiazole (0.24 g, 2.42 mmol). This mixture was stirred at RT for 72 h. Purification via silica gel chromatography (first using 2% MeOH in CH2Cl2 to wash out remaining amine, then using 8% MeOH in CH2Cl2) gave N-[4-(thiazol-2-ylsulfamoyl)-naphthalen-1-yl]-acetamide (0.48 g, 57%). LC/MS (10-99% CH3CN), M/Z: M+1 obs=348.10; tR=1.78 min.

reactant | 4-acetamidonaphthalene-1-sulfonyl chloride | 2.42 mmol, 3.69 g | C(C)(=O)NC1=CC=C(C2=CC=CC=C12)S(=O)(=O)Cl | C12H10ClNO3S
reactant | 2-aminothiazole | 2.42 mmol, 0.24 g | NC=1SC=CN1 | C3H4N2S
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(thiazol-2-ylsulfamoyl)-naphthalen-1-yl]-acetamide | 0.48 g, 57% | S1C(=NC=C1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)NC(C)=O | C15H13N3O3S2
